US06248740B1
Production of 2-[6-[2-[4-(diphenylmethoxy)piperidino] ethylamino]imidazo[1,2-b]pyridazin-2-yl]-2-methylpropionic acid
1.13 g of isopropyl 2-[6-[2-(methanesulfonyloxy) ethylamino]imidazo[1,2-b]pyridazin-2-yl]-2-methylpropionate was dissolved in 15 ml of N,N-dimethylformamide; 943 mg of 4-(diphenylmethoxy)piperidine, 586 mg of potassium iodide and 488 mg of potassium carbonate were added, followed by stirring at 60° C. for 2 hours. Ice water was added; the mixture was saturated with sodium chloride and extracted with ethyl acetate; the extract was washed with saturated saline and dried with magnesium sulfate. The dry product was concentrated under reduced pressure; the residue was subjected to silica gel column chromatography and eluted with ethyl acetate:methanol (10:1). The desired fraction was collected, concentrated under reduced pressure and dried to yield 571 mg of the title compound.

reactant | isopropyl 2-[6-[2-(methanesulfonyloxy) ethylamino]imidazo[1,2-b]pyridazin-2-yl]-2-methylpropionate | 1.13 g | CS(=O)(=O)OCCNC=1C=CC=2N(N1)C=C(N2)C(C(=O)OC(C)C)(C)C | C16H24N4O5S
reactant | 4-(diphenylmethoxy)piperidine | 943 mg | C1(=CC=CC=C1)C(OC1CCNCC1)C1=CC=CC=C1 | C18H21NO
reactant | potassium iodide | 586 mg | [I-].[K+]
reactant | potassium carbonate | 488 mg | C([O-])([O-])=O.[K+].[K+]
reactant | sodium chloride | [Cl-].[Na+]
solvent | N,N-dimethylformamide | 15 ml | CN(C=O)C | C3H7NO
product | 2-[6-[2-[4-(diphenylmethoxy)piperidino] ethylamino]imidazo[1,2-b]pyridazin-2-yl]-2-methylpropionic acid | 571 mg | C1(=CC=CC=C1)C(OC1CCN(CC1)CCNC=1C=CC=2N(N1)C=C(N2)C(C(=O)O)(C)C)C2=CC=CC=C2 | C30H35N5O3
